US08168659B2
(±)-5-(3-Trifluoromethoxy-phenyl)-1-(4-fluoro-phenyl)-3-(4-fluoro-phenylamino)-1,5-dihydro-pyrrol-2-one
Stir 3-(trifluoromethoxy)benzaldehyde (15.0 g, 78.6 mmol), 4-fluoroaniline (22.4 mL, 236 mmol) and ethyl pyruvate (8.65 mL, 78.6 mmol) in glacial acetic acid (60 mL) at ambient temperature for 72 hours. Filter the precipitate and wash with a 3:1 heptane/MTBE mixture. Dry under vacuum to afford the titled compound (20.9 g, 60%) as an off-white powder: MS (m/z): 445 (M−1).

reactant | 3-(trifluoromethoxy)benzaldehyde | 78.6 mmol, 15.0 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | 4-fluoroaniline | 236 mmol, 22.4 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl pyruvate | 78.6 mmol, 8.65 mL | C(C(=O)C)(=O)OCC | C5H8O3
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | (±)-5-(3-Trifluoromethoxy-phenyl)-1-(4-fluoro-phenyl)-3-(4-fluoro-phenylamino)-1,5-dihydro-pyrrol-2-one | 20.9 g, 60% | FC(OC=1C=C(C=CC1)C1C=C(C(N1C1=CC=C(C=C1)F)=O)NC1=CC=C(C=C1)F)(F)F | C23H15F5N2O2
